US07595323B2
2-Methyl-4-nitrophenyl-guanidine nitrate (26.3 g, 0.1 mol) and 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one (15 g, 0.08 mol) were reacted according to the same procedure as Step 1.3 of Preparation 1 to give N-(2-methyl-4-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine (15 g).

reactant | 2-Methyl-4-nitrophenyl-guanidine nitrate | 0.1 mol, 26.3 g | [N+](=O)(O)[O-].CC1=C(C=CC(=C1)[N+](=O)[O-])NC(=N)N
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | 0.08 mol, 15 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
product | N-(2-methyl-4-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine | 15 g | CC1=C(C=CC(=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H13N5O2
